US08258160B2
Synthesis of ethyl 2-(1-(2,2-difluoro-2-phenylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate
To a degassed solution of ethyl 2-ethynyl-4-methylthiazole-5-carboxylate (0.10 g, 0.51 mmol) and (2-azido-1,1-difluoroethyl)benzene (0.14 g, 0.77 mmol) in tetrahydrofuran (5 mL) was added N,N-diisopropylethylamine (0.10 mL, 0.61 mmol), and copper(I) iodide (0.002 g, 0.01 mmol). The reaction mixture was stirred at ambient temperature under nitrogen for 17 hours, and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound as a white solid (0.13 g, 67%): 1H NMR (300 MHz, CDCl3) δ 8.24 (s, 1H), 7.45-7.31 (m, 5H), 5.02-4.93 (m, 2H), 4.20 (q, J=7.1 Hz, 2H), 2.65 (s, 3H), 1.33 (t, J=7.1 Hz, 3H); MS (ES+) m/z 379.3 (M+1).

reactant | ethyl 2-ethynyl-4-methylthiazole-5-carboxylate | 0.51 mmol, 0.10 g | C(#C)C=1SC(=C(N1)C)C(=O)OCC | C9H9NO2S
reactant | (2-azido-1,1-difluoroethyl)benzene | 0.77 mmol, 0.14 g | N(=[N+]=[N-])CC(F)(F)C1=CC=CC=C1 | C8H7F2N3
reactant | N,N-diisopropylethylamine | 0.61 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.01 mmol, 0.002 g | [Cu]I
product | ethyl 2-(1-(2,2-difluoro-2-phenylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate | 0.13 g, 67% | FC(CN1N=NC(=C1)C=1SC(=C(N1)C)C(=O)OCC)(C1=CC=CC=C1)F | C17H16F2N4O2S
